US05814631
As the starting substances, methyl 4-chloro-2-phenoxycarbonylaminobenzoate and 4-acetylbenzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-(4-acetylbenzenesulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea and further to obtain from 300 mg (0.76 mmol) of N-(4-acetylbenzenesulfonyl)-N'-(2-carboxyl-5-chlorophenyl)urea 170 mg of the above-identified compound (yield 59.1%). Properties: colorless crystal, Melting point: >250° C. (decomposition), PMR (δppm, DMSO-d6):2.64 (3H,s), 7.10 (1H,s), 7.24 (1H,q), 7.85 (1H,d), 8.17 (2H,d), 8.27 (2H,d).

reactant | methyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
reactant | 4-acetylbenzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
product | N-(4-acetylbenzenesulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OC | C17H15ClN2O6S
